US06812235B2
To a solution of dimethylsulfoxide (DMSO) (1.11 mL, 5.81 mmol) in dichloromethane (DCM)(15 mL) was added dropwise a solution of oxalyl chloride (1.01 mL, 11.62 mmol) in DCM (5 mL) at −78° C. To the mixture was added a solution of ethyl N-(tert-butoxycarbonyl)-3-(3-hydroxypropylamino)propionate (1.6 g, 5.81 mmol) in DCM (10 mL) after 30 minutes. The mixture was stirred for 30 minutes at −78° C., then triethylamine (5.91 mL) was added. After stirring for 30 minutes at room temperature, the mixture was quenched by a saturated aqueous NH4Cl solution, and extracted with DCM. The organic layer was washed with water and brine, dried over Na2SO4, and evaporated in vacuo. The residue was dissolved in THF (20 mL), then a Wittig reagent, which was prepared from methyltriphenylphosphonium bromide (2.49 g, 22.2 mmol) and 1N tert-BuOK THF solution (6.97 mL) in THF (10 mL), was added to the solution at 0° C. The mixture was stirred for an hour at room temperature, then quenched by a saturated aqueous NH4Cl solution, and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4, and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of ethyl acetate and n-hexane (1:10) to give ethyl N-(tert-butoxycarbonyl)-3-(3-butenylamino)propionate (1.2 g, 0.44 mmol, 76.1%) as a colourless oil.

reactant | dimethylsulfoxide | 5.81 mmol, 1.11 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 11.62 mmol, 1.01 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl N-(tert-butoxycarbonyl)-3-(3-hydroxypropylamino)propionate | 5.81 mmol, 1.6 g | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)CCCO | C13H25NO5
reactant | triethylamine | 5.91 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | DCM | 5 mL | ClCCl | CH2Cl2
solvent | DCM | 10 mL | ClCCl | CH2Cl2
catalyst | methyltriphenylphosphonium bromide | 22.2 mmol, 2.49 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl N-(tert-butoxycarbonyl)-3-(3-butenylamino)propionate | 0.44 mmol, 1.2 g, 76.1% | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)CCC=C | C14H25NO4
